US04638099
Preparation of 4,4'-Dihydroxydiphenyl Ether
In a 0.5-liter three-neck flask equipped with stirrer, thermometer, and ball condenser, 84.4 g (0.2 mole) of 4,4'-diiododiphenyl ether, 93.0 g (2.32 moles) of NaOH, 2.1 g of powdered copper, 1.7 g of cuprous chloride, 3.3 g of sodium peroxide, and 33 ml of water were heated over 4 hours to 190° C. After cooling to 140° C., another 37 ml of water were added and the batch was stirred for another 3 hours at 150° C. After cooling to room temperature, the batch was mixed with 200 ml of water and filtered. 200 g of ice were added to the filtrate, which was acidified with concentrated hydrochloric acid. The precipitated 4,4'-dihydroxydiphenyl ether was drawn off by suction and recrystallized from 0.8 liter of water. Yield: 33.5 g (83%).

reactant | 4,4'-diiododiphenyl ether | 0.2 mole, 84.4 g | C1=CC(=CC=C1OC2=CC=C(C=C2)I)I | C12H8I2O
reactant | NaOH | 2.32 moles, 93.0 g | [OH-].[Na+]
reactant | sodium peroxide | 3.3 g | [O-][O-].[Na+].[Na+]
catalyst | copper | 2.1 g | [Cu] | Cu
solvent | water | 200 ml | O | H2O
solvent | water | 37 ml | O | H2O
solvent | water | 33 ml | O | H2O
product | 4,4'-Dihydroxydiphenyl Ether | C1=CC(=CC=C1O)OC2=CC=C(C=C2)O | C12H10O3
